US05741800
A solution of 3-phenylpropionyl chloride (29.7 ml) in dichloromethane (100 ml) was added dropwise to a stirred solution of 3-piperidinemethanol (23 g) and triethylamine (22.2 g) in dichloromethane (200 ml) at 0° C. over 1.25 hours, maintaining the temperature at 0° C. The mixture was stirred at 0°-5° C. for 22 hours. After washing (saturated sodium bicarbonate solution), the organic layer was separated off, dried and evaporated to give 3-hydroxymethyl-1-(3-phenylpropionyl)piperidine as an oil.

reactant | 3-phenylpropionyl chloride | 29.7 ml | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
reactant | 3-piperidinemethanol | 23 g | N1CC(CCC1)CO | C6H13NO
reactant | triethylamine | 22.2 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 3-hydroxymethyl-1-(3-phenylpropionyl)piperidine | OCC1CN(CCC1)C(CCC1=CC=CC=C1)=O | C15H21NO2
